US06333337B1
7-nitro-1,2,3,4-tetrahydo-2-naphthalenol (10.13 g, 0.053 mol) (from Preparation 1) was heated in the presence of TsOH—H2O (1.72 g, 0.009 mol, 0.2 equiv.) in toluene (150 ml) for 2 h at 100° C. The solvent was removed under reduced pressure and the residue was treated with EtOAc (150 ml) and saturated aqueous NaHCO3 (150 ml). The aqueous layer was separated and extracted with additional EtOAc (2×100 ml). The combined organic layers were washed with saturated aqueous NaCl (200 ml), dried (Na2SO4), filtered, and concentrated under reduced pressure to give 7-nitro-3,4-dihydronaphthalene as a brown oil (9.18 g, 100%) which was used in the next step without additional purification. Rf (silica gel): 0.79 (70% hexane: 30% EtOAc); 1H NMR (300 MHZ, CDCl3) 7.95 (dd, J=2.4 and 8.1 Hz, 1H), 7.83 (d, J=2.4 Hz, 1H), 7.21 (d, J=8.1 Hz, 1H), 6.50 (d, J=6.50 Hz, 1H), 6.18 (dt, J=4.5 and 9.6 Hz, 2H), 2.88 (t, J=8.4 Hz, 2H), 2.40-2.34 (m, 2H); 13C NMR (75 MHZ, CDCl3) 147.1, 143.1, 135.3, 131.4, 128.2, 126.5, 121.8, 120.3, 27.4, 22.5.

reactant | 7-nitro-1,2,3,4-tetrahydo-2-naphthalenol | 0.053 mol, 10.13 g | [N+](=O)([O-])C1=CC=C2CCC(CC2=C1)O | C10H11NO3
reactant | TsOH—H2O | 0.009 mol, 1.72 g, 0.2 equiv. | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 7-nitro-3,4-dihydronaphthalene | 9.18 g, 100% | [N+](=O)([O-])C1=CC=C2CCC=CC2=C1 | C10H9NO2
